US05506256
A) (2S)-1-(t-Butoxycarbonyl)-2-[1-hydroxy-2-(4-methoxyphenylthio)ethyl]pyrrolidine
4-Methoxythiophenol (1.0 ml) and triethylamine (1.0 ml) were added to (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)-pyrrolidine (1.57 g) as obtained in Example 1-A) in methanol (50 ml), and the mixture was stirred for 1.5 hours under reflux. The reaction mixture was concentrated and the residue was poured into ice-water, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated. The residue was recrystallized from a mixted solution of hexane-ethyl acetate to give 2.16 g of the title compound as colorless needles.

reactant | 4-Methoxythiophenol | 1.0 ml | COC1=CC=C(C=C1)S | C7H8OS
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)-pyrrolidine | 1.57 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
solvent | methanol | 50 ml | CO | CH4O
product | (2S)-1-(t-Butoxycarbonyl)-2-[1-hydroxy-2-(4-methoxyphenylthio)ethyl]pyrrolidine | 2.16 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(CSC1=CC=C(C=C1)OC)O | C18H27NO4S
